US06080773
To a solution of 0.49 g of acetone oxime in 8 ml of dry tetrahydrofuran was added 0.75 g of potassium tert-butoxide. The solution was stirred for 15 min. then a solution of 1.86 g of (2-fluoropyridin-3-yl)-2-(diethoxymethyl)-phenylmethanone in 8 ml of tetrahydrofuran was added. The solution was stirred at room temperature for 30 min. then quenched by the addition of 25 ml of a 1:1 water-saturated ammonium chloride solution. The solution was extracted with two 50 ml portions of ether and the combined ether extracts were washed with brine and dried over sodium sulfate. Evaporation afforded the intermediate 3-[2-(diethyloxymethyl)-benzoyl]-2-[((isopropylidene)amino]oxy]-pyridine which was not characterised but dissolved in 30 ml of ethanol and 20 ml of 2 M hydrochloric acid added and the solution refluxed for 15 min. The solution was cooled to room temperature and the crystals of 2-(isoxazolo[5,4-b]pyridin-3-yl)-benzaldehyde were collected by filtration and dried in vacuo, 1H-NMR (200 MHz, CDCl3) d 10.26 (CHO).

reactant | acetone oxime | 0.49 g | CC(C)=NO | C3H7NO
reactant | potassium tert-butoxide | 0.75 g | CC(C)([O-])C.[K+]
reactant | (2-fluoropyridin-3-yl)-2-(diethoxymethyl)-phenylmethanone | 1.86 g | FC1=NC=CC=C1C(=O)C1=C(C=CC=C1)C(OCC)OCC | C17H18FNO3
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 3-[2-(diethyloxymethyl)-benzoyl]-2-[((isopropylidene)amino]oxy]-pyridine | C(C)OC(C1=C(C(=O)C=2C(=NC=CC2)ON=C(C)C)C=CC=C1)OCC | C20H24N2O4
